US07700638B2
7-(3-Aminophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole
This was prepared analogously to the above product from 5-ethoxycarbonyl-7-iodo-1-phenylbenzimidazole (2.1 g, 5.36 mmol), 3-aminophenylboronic acid (1.1 g, 8.04 mmol), 1,3-propanediol (1.9 ml, 26.8 mmol), potassium carbonate (3.7 g, 26.8 mmol) and bis(triphenylphosphin)palladium dichloride (50 mg, 0.07 mmol) in a mixture of dimethoxyethane (10 ml) and water (5 ml). The title product was obtained as an off-white solid (1.30 g, 68%) m/z, 358.2 (M+H)+.

reactant | 5-ethoxycarbonyl-7-iodo-1-phenylbenzimidazole | 5.36 mmol, 2.1 g | C(C)OC(=O)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C16H13IN2O2
reactant | 3-aminophenylboronic acid | 8.04 mmol, 1.1 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | 1,3-propanediol | 26.8 mmol, 1.9 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 26.8 mmol, 3.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 5 ml | O | H2O
catalyst | bis(triphenylphosphin)palladium dichloride | 0.07 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(3-Aminophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole | NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(=O)OCC | C22H19N3O2
